US05885985
To a stirred solution of 3.0 g (0.017 mol) of N-(2-fluorophenyl)thiourea in 75 ml of acetone was added an excess of methyl iodide. The reaction was allowed to stir over night. To the solution was then added 20 ml of cyclohexane; a white solid crystallized and was collected by filtration to yield 4.3 g of N-(2-fluorophenyl)-S-methylisothiourea.

reactant | N-(2-fluorophenyl)thiourea | 0.017 mol, 3.0 g | FC1=C(C=CC=C1)NC(=S)N | C7H7FN2S
reactant | methyl iodide | CI | CH3I
reactant | cyclohexane | 20 ml | C1CCCCC1 | C6H12
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | N-(2-fluorophenyl)-S-methylisothiourea | 4.3 g | FC1=C(C=CC=C1)NC(SC)=N | C8H9FN2S
